US05262415
(b) 3-Amino-4-pyrrolidine-1-yl-pyridine
4-pyrrolidine-1-yl-3-nitropyridine (2.10 g, 10.9 mmol) was dissolved in 40 ml of 1,4-dioxane. After the atmosphere was replaced with nitrogen, 0.42 g of 10% palladium-carbon was added thereto. After the atmosphere was replaced with hydrogen, hydrogen addition was conducted with stirring at room temperature for about 15 hours. Palladium-carbon was removed by filtraton and the filtered cake was washed with 1,4-dioxane. The filtrate and the washings were combined and then concentrated to obtain 1.61 of a brown liquid (yield: 90.7%).

reactant | 4-pyrrolidine-1-yl-3-nitropyridine | 10.9 mmol, 2.10 g | N1(CCCC1)C1=C(C=NC=C1)[N+](=O)[O-] | C9H11N3O2
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 0.42 g | [C].[Pd]
product | 3-Amino-4-pyrrolidine-1-yl-pyridine | yield: 90.7% | NC=1C=NC=CC1N1CCCC1 | C9H13N3
